US03962287
reacting 3-cyano-3-hydroxy-4-chlorobutyric acid with water at a pH of from about 1.0 to about 3.0 to form 3-carbamoyl-3-hydroxy-4-chlorobutyric acid,

reactant | 3-cyano-3-hydroxy-4-chlorobutyric acid | C(#N)C(CC(=O)O)(CCl)O | C5H6ClNO3
reactant | water | O | H2O
product | 3-carbamoyl-3-hydroxy-4-chlorobutyric acid | C(N)(=O)C(CC(=O)O)(CCl)O | C5H8ClNO4
